US03991187
2',4',6'-tribenzoyloxyacetophenone (83.5 g) and 4-hydroxybenzaldehyde are dissolved in 850 ml of ethyl acetate. Hydrogen chloride is led in at a temperature of 0° for 6 h. The reaction mixture is then kept at about 5° for 4 days and then freed from most of the hydrogen chloride with nitrogen passed through the solution. The ethyl acetate is evaporated and the residue mixed with 300 ml benzene and evaporated to remove the remaining hydrogen chloride. The residue is mixed with abs. ethanol (460 ml). A crystalline solid is formed, collected by filtration and then suspended in ether and refluxed with stirring for 2 h. After cooling, filtration and washing with ether there is obtained 41 g of 4-hydroxy-2',4',6'-tribenzoyloxy-chalcone with m.p. 198°-200° . This compound is dissolved in 1400 ml dioxane and hydrogenated at room temperature and atmospheric pressure with 4 g of 10 % Pd/C C as catalyst. When the theoretical amount of hydrogen has been absorbed the reaction is stopped, the catalyst removed by filtration and the dioxane evaporated in vacuo. The residue is recrystallized twice from abs. ethanol and 28 g of 3-(4-hydroxyphenyl)-2',4',6'-tribenzoyloxypropiophenone is obtained with a m.p. of 156°-8°.

reactant | 2',4',6'-tribenzoyloxyacetophenone | 83.5 g | C(C1=CC=CC=C1)(=O)OC1=C(C(=CC(=C1)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)C(C)=O | C29H20O7
reactant | 4-hydroxybenzaldehyde | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | Hydrogen chloride | Cl | ClH
solvent | ethyl acetate | 850 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-2',4',6'-tribenzoyloxy-chalcone | 41 g | OC1=CC=C(C=C1)C=CC(=O)C1=C(C=C(C=C1OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O)OC(C1=CC=CC=C1)=O | C36H24O8
